US05668161
To a solution of pentafluorobenzamide (5.00 g, 23.69 mmol) in toluene (60 mL) was added Lawesson's reagent (5.70 g, 14.20 mmol) and the flask fitted with a drying tube. The reaction was refluxed overnight, cooled to room temperature, and isooctane (200 mL) was added causing a precipitate to form. The suspension was filtered (gravity) and the filtrate concentrated yielding an orange oil which solidified. Flash chromatography of this oil (1:1 hexane:methylene chloride with 2% acetic acid) yielded crude pentafluorothiobenzamide as a white solid (mp 92°-93° C.) which was used without any further purification.

reactant | pentafluorobenzamide | 23.69 mmol, 5.00 g | FC1=C(C(=C(C(=C1C(=O)N)F)F)F)F | C7H2F5NO
reactant | Lawesson's reagent | 14.20 mmol, 5.70 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | isooctane | 200 mL | C(C)(C)CC(C)(C)C | C8H18
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | pentafluorothiobenzamide | FC1=C(C(=C(C(=C1C(=S)N)F)F)F)F | C7H2F5NS
